US06716863B2
2-[1-[4-[4-[[2-[(E)-2-(4-bromophenyl)ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]-1-ethanol
To a solution of 2-(1H-imidazol-2-yl)-ethanol (449 mg) in DMF (10 ml), 60% oily sodium hydride (176 mg) was added under ice cooling. After stirring at room temperature for 30 minutes, 4-[[4-(4-iodobutyl)phenoxy)methyl]-2-[(E)-2-(4-bromophenyl)ethenyl]-1,3-oxazole (2.15 g) was added under ice cooling. After stirring overnight at room temperature, water was added under ice cooling. The reaction mixture was extracted with a mixture of ethyl acetate-THF. The extract was dried over magnesium sulfate, after which it was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to yield the titled compound (2.09 g) as a light-yellow crystal.

reactant | 2-(1H-imidazol-2-yl)-ethanol | 449 mg | N1C(=NC=C1)CCO | C5H8N2O
reactant | sodium hydride | 176 mg | [H-].[Na+]
reactant | 4-[[4-(4-iodobutyl)phenoxy)methyl]-2-[(E)-2-(4-bromophenyl)ethenyl]-1,3-oxazole | 2.15 g | ICCCCC1=CC=C(OCC=2N=C(OC2)\C=C\C2=CC=C(C=C2)Br)C=C1 | C22H21BrINO2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[1-[4-[4-[[2-[(E)-2-(4-bromophenyl)ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]-1-ethanol | 2.09 g | BrC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCO | C27H28BrN3O3
